US07465731B2
To a mixture of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (350 mg) and 4-methoxybenzaldehyde (145 mg) in dichloromethane (5 ml) was added sodium triacetoxyborohydride (410 mg) at 20° C., and then it was stirred at the same temperature for 18 hours. The reaction was quenched with saturated aq NaHCO3 solution, and the mixture was extracted with dichloromethane. The organic layer was dried over sodium sulfate, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (11 g) using a mixed solvent of dichloromethane and MeOH (100:1 to 35:1). The fractions containing the objective compound were collected and evaporated under reduced pressure. ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(4-methoxybenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (362 mg) was obtained as colorless syrup.

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 350 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CNCC1 | C19H27N3O4
reactant | 4-methoxybenzaldehyde | 145 mg | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | sodium triacetoxyborohydride | 410 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(4-methoxybenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 362 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)CC1=CC=C(C=C1)OC | C27H35N3O5
